US07763639B2
METHYL 4-[2-FLUORO-3-(METHYLTHIO)PHENYL]PIPERAZINE-1-CARBOXYLATE
Preparation according to preparation 26: 1-[2-fluoro-3-(methylthio)phenyl]piperazine (1.25 g, 5.53 mmol), triethylamine (1.2 ml, 7.2 mmol), methylen chloride (50 ml), methyl chloroformate (0.49 g, 6.6 mmol). Yield: 1.56 g. MS m/z (rel. intensity, 70 eV) 284 (M+, 99), 196 (bp), 184 (44), 169 (54), 56 (60).

reactant | 1-[2-fluoro-3-(methylthio)phenyl]piperazine | 5.53 mmol, 1.25 g | FC1=C(C=CC=C1SC)N1CCNCC1 | C11H15FN2S
reactant | triethylamine | 7.2 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 6.6 mmol, 0.49 g | ClC(=O)OC | C2H3ClO2
solvent | methylen chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | METHYL 4-[2-FLUORO-3-(METHYLTHIO)PHENYL]PIPERAZINE-1-CARBOXYLATE | FC1=C(C=CC=C1SC)N1CCN(CC1)C(=O)OC | C13H17FN2O2S
